US04010279
4-(5-Chloro-2-methoxy-anilino-carbonyl-methyl)-4'-hydroxybiphenyl
A solution of 10 gm (44 millimols) of 4-hydroxy-4'-biphenyl-acetic acid (see W. H. Linnell and H. J. Smith, J. Chem. Soc. 1959,557) in a mixture of 33 ml of tetrahydrofuran and 162 ml of absolute dioxane were added at 0° C to a solution of 4.63 gm (29.4 millimols) of 2-methoxy-5-chloroaniline (m.p. 83°-85° C) in 40 ml of absolute dioxane, and the mixed solution was subsequently admixed with a solution of 9.1 gm (44 millimols) of N,N'-dicyclohexyl-carbodiimide in 20 ml of dioxane. After 20 hours of reaction time at 0° C, the dicyclohexylurea was filtered off and the solvent was distilled off. The residue was dissolved in 700 ml of chloroform, the solution was washed several times with 2N hydrochloric acid and water, dried over sodium sulfate, and the organic phase was evaporated in vacuo. The light brown, viscous crude product was purified on a silicagel column with toluene/acetic acid (4:1 ) as the eluant. Yield: 70% of theory; m.p. 165°-168° C.

reactant | 4-hydroxy-4'-biphenyl-acetic acid | 44 millimols, 10 gm | OC1=CC=C(C=C1)C1=CC=C(C=C1)CC(=O)O | C14H12O3
reactant | 2-methoxy-5-chloroaniline | 29.4 millimols, 4.63 gm | COC1=C(N)C=C(C=C1)Cl | C7H8ClNO
reactant | N,N'-dicyclohexyl-carbodiimide | 44 millimols, 9.1 gm | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 33 ml | O1CCCC1 | C4H8O
solvent | dioxane | 162 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4-(5-Chloro-2-methoxy-anilino-carbonyl-methyl)-4'-hydroxybiphenyl | Yield: 70% | ClC=1C=CC(C(N)C1)(C(=O)CC1=CC=C(C=C1)C1=CC=C(C=C1)O)OC | C21H20ClNO3
